US07763639B2
4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-PROPYL-1,2,3,6-TETRAHYDROPYRIDINE
A solution of 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-propylpiperidin-4-ol (8.0 g, 26 mmol) in trifluoroacetic acid (80 ml) was heated at reflux for 20 h. The mixture was poured on to ice and was basified with 10 M sodium hydroxide. The mixture was extracted with ethylacetate (3×100 ml) and the combined organic phases was dried (MgSO4), filtered and evaporated to dryness. The residue was purified by flash column chromatography (ethylacetate/methanol, 1:1) to give the title compound (5.6 g). MS m/z (rel. intensity, 70 eV) 287 (M+, 22), 259 (16), 258 (bp), 177 (10), 147 (10).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-propylpiperidin-4-ol | 26 mmol, 8.0 g | FC1=C(C=CC=C1C(F)(F)F)C1(CCN(CC1)CCC)O | C15H19F4NO
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
solvent | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[2-FLUORO-3-(TRIFLUOROMETHYL)PHENYL]-1-PROPYL-1,2,3,6-TETRAHYDROPYRIDINE | 5.6 g | FC1=C(C=CC=C1C(F)(F)F)C=1CCN(CC1)CCC | C15H17F4N
